US06579984B1
75.09 g of methyl isobutyrylacetate (0.50 mol, concentration 96%) and 61.80 g of 4-fluorobenzonitrile (0.50 mol, concentration 98%) were introduced into [500 ml of toluene and treated with 144.7 g of tin tetrachloride (0.55 mol, concentration 99%) at room temperature over the course of 16 min. After half an hour at room temperature, the thick suspension was heated to 80° C. After 3 h, 175 ml of toluene were distilled off at normal pressure, and the mixture was cooled to room temperature and treated with 450 ml of saturated sodium carbonate and 300 ml of ethyl acetate. The organic phase was separated off and the aqueous phase (after dilution with 300 ml of water) was again extracted with 300 ml of ethyl acetate. After drying the combined organic phases over sodium sulphate, the solvent was removed in vacuo (40° C./25 mbar). 127.2 g of crude product were obtained in the form of a slightly yellowish solid, which was dissolved in 160 ml of n-hexane (slightly turbid solution). After hot filtration and subsequent cooling in an ice bath, 99.8 g of methyl 2-[1-amino-1-(4-fluorophenyl)-methylene]-4-methyl-3-oxopentanoate were obtained after filtration in the form of a pale yellow solid.

reactant | methyl isobutyrylacetate | 0.50 mol, 75.09 g | C(C(C)C)(=O)CC(=O)OC | C7H12O3
reactant | 4-fluorobenzonitrile | 0.50 mol, 61.80 g | FC1=CC=C(C#N)C=C1 | C7H4FN
reactant | toluene | 500 ml | C1(=CC=CC=C1)C | C7H8
reactant | tin tetrachloride | 0.55 mol, 144.7 g | [Sn](Cl)(Cl)(Cl)Cl
solvent | n-hexane | 160 ml | CCCCCC | C6H14
product | methyl 2-[1-amino-1-(4-fluorophenyl)-methylene]-4-methyl-3-oxopentanoate | 99.8 g, Yield: 74.5% | NC(C1=CC=C(C=C1)F)=C(C(=O)OC)C(C(C)C)=O | C14H16FNO3
